US03993658
Following the procedure described in Example 9, part B above but using equivalent amounts of 5,6-diiodo-4,7-dimethoxy-1,3-diiminoisoindoline and 2-diethylamino-4-imino-2-thiazoline hydrochloride in place of 1,3-diiminoisoindoline and 2-piperidino-4-imino-2-thiazoline hydrochloride respectively, there is obtained as the product 1-imino-5,6-diiodo-4,7-dimethoxy-3-(2-diethylamino-4-imino-2-thiazolin-5-ylidene)isoindoline hydrochloride.

reactant | 5,6-diiodo-4,7-dimethoxy-1,3-diiminoisoindoline | IC=1C(=C2C(NC(C2=C(C1I)OC)=N)=N)OC | C10H9I2N3O2
reactant | 2-diethylamino-4-imino-2-thiazoline hydrochloride | Cl.C(C)N(C=1SCC(N1)=N)CC
reactant | 2-piperidino-4-imino-2-thiazoline hydrochloride | Cl.N1(CCCCC1)C=1SCC(N1)=N
product | 1-imino-5,6-diiodo-4,7-dimethoxy-3-(2-diethylamino-4-imino-2-thiazolin-5-ylidene)isoindoline hydrochloride | Cl.N=C1NC(C2=C(C(=C(C(=C12)OC)I)I)OC)=C1C(N=C(S1)N(CC)CC)=N | InChI=1S/C17H19I2N5O2S.ClH/c1-5-24(6-2)17-23-16(21)14(27-17)11-7-8(15(20)22-11)13(26-4)10(19)9(18)12(7)25-3;/h21H,5-6H2,1-4H3,(H2,20,22);1H
